US06458829B1
To a suspension of 3-hydroxy-4-methoxybenzaldehyde (2.00 g, 13.2 mmol), potassium carbonate (2.74 g, 19.8 mmol) and potassium iodide (60.0 mg, 0.361 mmol) in DMF (15 mL) was slowly added 1-bromopropane (1.56 mL, 17.2 mmol) via syringe. The reaction mixture was stirred at 65° C. for 5 hours. After cooling to room temperature, the mixture was diluted with diethyl ether (100 mL), and the organic phase was washed with water (2×50 mL). After drying over anhydrous MgSO4, filtration and evaporation of the filtrate in vacuo gave crude 3-(propyloxy)-4-methoxybenzaldehyde (2.60 g) which was used in the next step without further purification.

reactant | 3-hydroxy-4-methoxybenzaldehyde | 13.2 mmol, 2.00 g | OC=1C=C(C=O)C=CC1OC | C8H8O3
reactant | potassium carbonate | 19.8 mmol, 2.74 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromopropane | 17.2 mmol, 1.56 mL | BrCCC | C3H7Br
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
catalyst | potassium iodide | 0.361 mmol, 60.0 mg | [I-].[K+]
product | 3-(propyloxy)-4-methoxybenzaldehyde | 2.60 g | C(CC)OC=1C=C(C=O)C=CC1OC | C11H14O3
